US08461162B2
A solution of 2-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (2.35 g, 8.9 mmol) in ethyl acetate (100 mL) was treated with platinum(IV) oxide (0.2 g) and stirred vigorously under a hydrogen atmosphere for 30 minutes. The reaction mixture was degassed with nitrogen and filtered through celite washing with ethyl acetate. This solution was then treated with CDI (1.8 g, 11.1 mmol) and stirred overnight at ambient temperature. The solution was diluted with methylene chloride (100 mL) and the precipate was filtered and washed with cold methanol. The solids were dried in vacuo to yield 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-dihydro-2H-benzimidazol-2-one as a white solid.

reactant | 2-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 8.9 mmol, 2.35 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C12H17BN2O4
reactant | CDI | 11.1 mmol, 1.8 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | platinum(IV) oxide | 0.2 g | [Pt](=O)=O
product | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-dihydro-2H-benzimidazol-2-one | CC1(OB(OC1(C)C)C1=CC2=C(NC(N2)=O)C=C1)C | C13H17BN2O3
